US04734406
Methyl 6-[1-hydroxy-1-phenyl-1-(3-pyridyl)methyl]-2-naphthoate is prepared from 2-acetyl-6-(1-hydroxy-1-phenyl-1-(3-pyridyl) methyl)naphthalene in analogy to 3a without intermediate protection of the hydroxyl group as the trimethylsilyl ether. RF (ethyl acetate/methanol): 0.53.

reactant | 2-acetyl-6-(1-hydroxy-1-phenyl-1-(3-pyridyl) methyl)naphthalene | C(C)(=O)C1=CC2=CC=C(C=C2C=C1)C(C=1C=NC=CC1)(C1=CC=CC=C1)O | C24H19NO2
reactant | trimethylsilyl ether | C[Si](C)(C)O[Si](C)(C)C | C6H18OSi2
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
product | Methyl 6-[1-hydroxy-1-phenyl-1-(3-pyridyl)methyl]-2-naphthoate | OC(C=1C=NC=CC1)(C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C24H19NO3
